US06465691B1
Diethylamine (150 g, 2.05 moles) and manganese acetate catalyst (30 mg, 0.12 mmole) were charged into a 1 liter reactor at room temperature. The reactor was evacuated to 0.6×105 Pa (0.6 bar) and carbon disulfide (87.5 g, 1.15 moles) was dosed in 20 min while increasing the temperature to 60° C. The reactor was pressurized to 3×105 (3 bar) with pure oxygen and the stirring speed was raised to 1400 rpm. Carbon disulfide dosing was started again at a dosing rate of 2 moles per mole oxygen reacted, i.e. 68.5 g (0.90 mole) in 280 min. The reaction was stopped when the oxygen flow fell below 1 ml/min. After removal of the reaction water formed by evaporation, 295 g of tetraethyl thiuram disulfide were obtained (yield: 97.2 wt %) with a purity of 96.7 wt % (as determine d by the H2S titration method).

reactant | Diethylamine | 2.05 moles, 150 g | C(C)NCC | C4H11N
reactant | oxygen | O=O | O2
reactant | Carbon disulfide | C(=S)=S | CS2
reactant | carbon disulfide | 1.15 moles, 87.5 g | C(=S)=S | CS2
catalyst | manganese acetate | 0.12 mmole, 30 mg | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
product | tetraethyl thiuram disulfide | 295 g | C(C)N(C(SSC(N(CC)CC)=S)=S)CC | C10H20N2S4
